* c:\fossee\esim\library\subcircuitlibrary\ce\ce.cir

q1  net-_c2-pad2_ net-_c3-pad1_ net-_c1-pad1_ bc547
r1  net-_r1-pad1_ net-_c2-pad2_ 2.2k
r4  net-_c1-pad1_ ac 1.2k
r2  net-_r1-pad1_ net-_r2-pad2_ 910k
r3  net-_r2-pad2_ ac 220k
c3  net-_c3-pad1_ ? 5u
c2  net-_c2-pad1_ net-_c2-pad2_ 10u
c1  net-_c1-pad1_ ac 20u
r5  net-_c2-pad1_ ac 1k
v1 net-_c2-pad1_ ac  dc 0
v1  net-_r1-pad1_ gnd 15v
.ac lin 10 1Hz 100Hz

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
